US05723408
As a starting material, 4-methoxy-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide corresponding to pyrazole derivative (I-H) was used. 0.4 Gram (1.1 mmol) thereof was dissolved in 4 ml of methylene chloride, and 0.22 g (2.2 mmol) of triethylamine as a base and 0.19 g (1.3 mmol) of cyclohexylcarbonyl chloride corresponding to compound B-A-Hal as a reaction reagent were added. The mixture was allowed to react at room temperature for 8 hours. A saturated sodium carbonate aqueous solution was added to the reaction mixture, and the resultant mixture was extracted with ethyl acetate. An organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant oil was purified by flush column chromatography (Wako Gel C-300; hexane/ethyl acetate=1:1) to give 0.28 g (yield 54%) of 4-methoxy-5-methyl-6-(5-cyclohexylcarbonyloxy-1-ethylpyrazol-4-yl)carbonylthiochroman-1,1-dioxide.

reactant | 4-methoxy-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | COC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C17H20N2O5S
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | triethylamine | 2.2 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | cyclohexylcarbonyl chloride | 1.3 mmol, 0.19 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxy-5-methyl-6-(5-cyclohexylcarbonyloxy-1-ethylpyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.28 g, yield 54% | COC1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1OC(=O)C1CCCCC1)CC)(=O)=O | C24H30N2O6S
